US09059414B2
First, 3.01 g of 4,6-dichloropyrimidine, 10.9 g of 2-methylpyridine-3-boronic acid pinacol ester, 60 mL of 1M aqueous solution of potassium acetate, 60 mL of 1M aqueous solution of sodium carbonate, and 60 mL of acetonitrile were put in a 300 mL three-neck flask, and the air in the flask was replaced with argon. To this mixture, 1.40 g of tetrakis(triphenylphosphine)palladium(0) was added, and the mixture was irradiated with microwaves under conditions of 70° C. and 400 W and for 2 hours to cause a reaction. This reaction mixture was extracted with ethyl acetate, and washing with saturated brine was performed. Anhydrous magnesium sulfate was added to the obtained solution of the extract for drying, and the resulting mixture was gravity-filtered to give a filtrate. A residue obtained by condensing the filtrate was purified by flash column chromatography using ethyl acetate as a developing solvent. A solid obtained by condensing the fraction was purified by flash column chromatography using hexane and ethyl acetate in a ratio of 1:1 as a developing solvent, so that 4-chloro-6-(2-methylpyridin-3-yl)pyrimidine was obtained (a yellow white solid, yield of 24%). A synthetic scheme of Step 1 is shown in (c-1) below.

reactant | 4,6-dichloropyrimidine | 3.01 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-methylpyridine-3-boronic acid pinacol ester | 10.9 g | CC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.40 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 4-chloro-6-(2-methylpyridin-3-yl)pyrimidine | yield of 24% | ClC1=NC=NC(=C1)C=1C(=NC=CC1)C | C10H8ClN3
